US06060459
Preparation of lysylguanosine
To a stirred solution of 800 mg of (Nα-FMOC-lysyl)guanosine in anhydrous pyridine was added anhydrous piperidine (4 mol eq.). The mixture was allowed to stir for 5 hr at 0° C. and then was evaporated to dryness. The residue was dissolved in DMF and purified by slow addition of the DMF solution to a rapidly stirred solution of EtOH-Et2O, yielding a precipitate.

reactant | (Nα-FMOC-lysyl)guanosine | 800 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCCCN)C(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C31H35N7O8
reactant | piperidine | 4 mol | N1CCCCC1 | C5H11N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | lysylguanosine | N[C@@H](CCCCN)C(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C16H25N7O6
